US08357717B2
Conc. sulfuric acid (25 ml; 0.5 equiv.) was added over a period of 10 minutes to nitric acid at 0° C. (69-72%; 25 ml; 0.5 equiv.). The resulting mixture was stirred for 30 minutes at 0° C. Conc. sulfuric acid (75 ml; 1.5 equiv.) was added at room temperature, over a period of 20 minutes, to 4-methylbenzoic acid (50 g; 1 equiv.). The resulting suspension was cooled to 0° C., and the nitrating acid was added thereto over a period of 45 minutes. The resulting reaction mixture was stirred for 1 hour at 10-20° C. When the conversion was complete, the reaction mixture was poured onto ice-water and the resulting white solid was filtered out and dried. 4-Methyl-3-nitrobenzoic acid (66.5 g; 82.7%) was obtained in the form of a white solid.

reactant | sulfuric acid | 25 ml, 0.5 equiv. | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 75 ml, 1.5 equiv. | S(O)(O)(=O)=O | H2O4S
reactant | 4-methylbenzoic acid | 50 g, 1 equiv. | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
product | 4-Methyl-3-nitrobenzoic acid | 66.5 g, 82.7% | CC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
